US08202873B2
2-(4-Bromo-phenyl)-acetamide:
Add 2-(4-bromo-phenyl)-acetyl chloride (1.00 g, 4.28 mmol) to a solution of ammonia in dioxane (0.5 M, 15 mL) at room temperature. Stir for 30 min., then quench with water. Extract with DCM (10 mL) and pass through an IST Phase Separator Frit® and concentrate until precipitate appears. Collect precipitate by filtration, wash powder with DCM, then dissolve in methanol, filter and concentrate to give a white powder (1.0 g, 109%). 1H-NMR (300 MHz, MeOD) δ 7.48 (d, 2H), 7.25 (d, 2H), 3.50 (s, 2H).

reactant | 2-(4-bromo-phenyl)-acetyl chloride | 4.28 mmol, 1.00 g | BrC1=CC=C(C=C1)CC(=O)Cl | C8H6BrClO
reactant | ammonia | N | H3N
solvent | dioxane | 0.5 M, 15 mL | O1CCOCC1 | C4H8O2
product | 2-(4-Bromo-phenyl)-acetamide | 1.0 g, 109% | BrC1=CC=C(C=C1)CC(=O)N | C8H8BrNO
